// Generated for: spectre
// Generated on: Feb 27 18:12:02 2017
// Design library name: project_lib
// Design cell name: Adder_Test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters _gpar0
include "/usr/public.2/ee115c/cadence-labs/gpdk090_v3.4/models/spectre/gpdk090.scs" section=NN

// Library name: project_lib
// Cell name: FAdder
// View name: schematic
subckt FAdder \!Cout A B Cin GND S VDD
    NM12 (S net30 GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1)
    NM11 (net024 A GND GND) gpdk090_nmos1v w=(1.29u) l=100n as=361.2f \
        ad=361.2f ps=1.85u pd=1.85u m=(1)*(1)
    NM10 (net025 B net024 net024) gpdk090_nmos1v w=(1.29u) l=100n \
        as=361.2f ad=361.2f ps=1.85u pd=1.85u m=(1)*(1)
    NM9 (net30 Cin net025 net025) gpdk090_nmos1v w=(1.29u) l=100n \
        as=361.2f ad=361.2f ps=1.85u pd=1.85u m=(1)*(1)
    NM8 (net19 Cin GND GND) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1)
    NM7 (net19 A GND GND) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1)
    NM6 (net19 B GND GND) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1)
    NM5 (net30 \!Cout net19 net19) gpdk090_nmos1v w=(860n) l=100n \
        as=240.8f ad=240.8f ps=1.42u pd=1.42u m=(1)*(1)
    NM4 (\!Cout Cin net11 net11) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1)
    NM3 (\!Cout A net14 net14) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1)
    NM2 (net14 B GND GND) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1)
    NM1 (net11 B GND GND) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1)
    NM0 (net11 A GND GND) gpdk090_nmos1v w=(860n) l=100n as=240.8f \
        ad=240.8f ps=1.42u pd=1.42u m=(1)*(1)
    PM13 (S net30 VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
    PM12 (net029 A VDD VDD) gpdk090_pmos1v w=(1.95u) l=100n as=546f \
        ad=546f ps=2.51u pd=2.51u m=(1)*(1)
    PM10 (net028 B net029 net029) gpdk090_pmos1v w=(1.95u) l=100n as=546f \
        ad=546f ps=2.51u pd=2.51u m=(1)*(1)
    PM9 (net30 Cin net028 net028) gpdk090_pmos1v w=(1.95u) l=100n as=546f \
        ad=546f ps=2.51u pd=2.51u m=(1)*(1)
    PM8 (net020 Cin VDD VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f \
        ad=364f ps=1.86u pd=1.86u m=(1)*(1)
    PM7 (net020 B VDD VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f ad=364f \
        ps=1.86u pd=1.86u m=(1)*(1)
    PM6 (net020 A VDD VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f ad=364f \
        ps=1.86u pd=1.86u m=(1)*(1)
    PM5 (net30 \!Cout net020 net020) gpdk090_pmos1v w=(1.3u) l=100n \
        as=364f ad=364f ps=1.86u pd=1.86u m=(1)*(1)
    PM4 (\!Cout A net16 net16) gpdk090_pmos1v w=(1.3u) l=100n as=364f \
        ad=364f ps=1.86u pd=1.86u m=(1)*(1)
    PM3 (net16 B VDD VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f ad=364f \
        ps=1.86u pd=1.86u m=(1)*(1)
    PM2 (net10 B VDD VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f ad=364f \
        ps=1.86u pd=1.86u m=(1)*(1)
    PM1 (net10 A VDD VDD) gpdk090_pmos1v w=(1.3u) l=100n as=364f ad=364f \
        ps=1.86u pd=1.86u m=(1)*(1)
    PM0 (\!Cout Cin net10 net10) gpdk090_pmos1v w=(1.3u) l=100n as=364f \
        ad=364f ps=1.86u pd=1.86u m=(1)*(1)
ends FAdder
// End of subcircuit definition.

// Library name: project_lib
// Cell name: Adder_Test
// View name: schematic
I0 (V!Cout vdd! B Vin 0 Sum vdd!) FAdder
V6 (B 0) vsource type=pulse val0=0 val1=0 period=1n delay=600p rise=10p \
        fall=10p width=500p
VCin (Vin 0) vsource type=pulse val0=0 val1=1 period=2n delay=0 rise=10p \
        fall=10p width=1n
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=1.5n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
