// Generated for: spectre
// Generated on: Feb 24 17:24:59 2017
// Design library name: project_lib
// Design cell name: INV
// Design view name: schematic
simulator lang=spectre
global 0
parameters VDD=1 GND=0 Vin=1
include "/usr/public.2/ee115c/cadence-labs/gpdk090_v3.4/models/spectre/gpdk090.scs" section=NN

// Library name: project_lib
// Cell name: INV
// View name: schematic
NM0 (Vout Vin GND GND) gpdk090_nmos1v w=(240n) l=100n as=67.2f ad=67.2f \
        ps=800n pd=800n m=(1)*(1)
PM0 (Vout Vin VDD VDD) gpdk090_pmos1v w=(480n) l=100n as=134.4f ad=134.4f \
        ps=1.04u pd=1.04u m=(1)*(1)
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dc dc param=Vin start=0 stop=1 step=0.05 write="spectre.dc" \
    oppoint=rawfile maxiters=150 maxsteps=10000 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
