// Generated for: spectre
// Generated on: Mar  2 18:29:35 2017
// Design library name: project_lib
// Design cell name: MUX_1bit_TEST
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters _gpar0
include "/usr/public.2/ee115c/cadence-labs/gpdk090_v3.4/models/spectre/gpdk090.scs" section=NN

// Library name: project_lib
// Cell name: INV
// View name: schematic
subckt INV GND VDD Vin Vout
    NM0 (Vout Vin GND GND) gpdk090_nmos1v w=(430n) l=100n as=120.4f \
        ad=120.4f ps=990n pd=990n m=(1)*(1)
    PM0 (Vout Vin VDD VDD) gpdk090_pmos1v w=(650n) l=100n as=182f ad=182f \
        ps=1.21u pd=1.21u m=(1)*(1)
ends INV
// End of subcircuit definition.

// Library name: project_lib
// Cell name: MUX_1bit_TEST
// View name: schematic
I4 (0 vdd! 0 \!S) INV
PM1 (OUT 0 0 vdd!) gpdk090_pmos1v w=(430n) l=100n as=120.4f ad=120.4f \
        ps=990n pd=990n m=(1)*(1)
PM0 (OUT \!S vdd! vdd!) gpdk090_pmos1v w=(430n) l=100n as=120.4f ad=120.4f \
        ps=990n pd=990n m=(1)*(1)
NM1 (OUT \!S 0 0) gpdk090_nmos1v w=(430n) l=100n as=120.4f ad=120.4f \
        ps=990n pd=990n m=(1)*(1)
NM0 (OUT 0 vdd! 0) gpdk090_nmos1v w=(430n) l=100n as=120.4f ad=120.4f \
        ps=990n pd=990n m=(1)*(1)
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=2n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
